US04287346
A mixture consisting of 5.9 g (0.02 mol) of N-cyano-S-methyl-N-[α-(2-pyridyl)orthomethylbenzyl]isothiourea prepared in (a), 30 ml of 20% solution of methylamine in ethanol and 70 ml of ethanol was prepared and reacted at room temperature overnight. The reaction solution was concentrated under a reduced pressure. The residue was recrystallized from ethyl acetate to produce 4.7 g of the subject material, N-cyano-N'-methyl-N-[α-(2-pyridyl)orthomethylbenzyl]guanidine (yield: 85.0%).

reactant | N-cyano-S-methyl-N-[α-(2-pyridyl)orthomethylbenzyl]isothiourea | 0.02 mol, 5.9 g | C(#N)N(C(SC)=N)C(C1=C(C=CC=C1)C)C1=NC=CC=C1 | C16H16N4S
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-cyano-N'-methyl-N-[α-(2-pyridyl)orthomethylbenzyl]guanidine | yield: 85.0% | C(#N)N(C(=N)NC)C(C1=C(C=CC=C1)C)C1=NC=CC=C1 | C16H17N5
